US08217043B2
a) (3-Trifluoromethyl-benzyl)-pyrrol-1-yl-carbamic acid tert-butyl ester
Prepared according to the benzylation condition used in Example 1 step b) from pyrrol-1-yl-carbamic acid tert-butyl ester (1.0 eq.), 3-trifluoromethylbenzyl chloride (1.0 eq.) and sodium hydride (1.3 eq.). ESI (m/z): 341 (M+H)+.

reactant | pyrrol-1-yl-carbamic acid tert-butyl ester | 1.0 eq. | C(C)(C)(C)OC(NN1C=CC=C1)=O | C9H14N2O2
reactant | 3-trifluoromethylbenzyl chloride | 1.0 eq. | FC(C=1C=C(CCl)C=CC1)(F)F | C8H6ClF3
reactant | sodium hydride | 1.3 eq. | [H-].[Na+]
product | (3-Trifluoromethyl-benzyl)-pyrrol-1-yl-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N(N1C=CC=C1)CC1=CC(=CC=C1)C(F)(F)F)=O | C17H19F3N2O2
